US07592498B2
Preparation of 7-oxanorborn-2-en-5-ylmethanol
A solution of methyl 7-oxanorborn-2-en-5-ylcarbonate (16.163 g, 105 mmol, see Example 1) in THF (75 ml) was added dropwise with stirring and under nitrogen to a suspension of lithium aluminium hydride (4.376 g, 115 mmol) in anhydrous THF (100 ml), in such a way that the solution boiled gently. The reaction mixture was subsequently stirred at room temperature for another 12 h and then quenched by cautiously adding an ice-water mixture. The organic phase was removed and the aqueous phase extracted with ethyl acetate (3×200 ml). The combined organic phases were washed with water (600 ml) and saturated sodium chloride solution (600 ml), dried over sodium sulphate and concentrated under reduced pressure.

reactant | lithium aluminium hydride | 115 mmol, 4.376 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 75 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-oxanorborn-2-en-5-ylmethanol | C12C=CC(C(C1)CO)O2 | C7H10O2
